US05602277
A mixture of nitroterephthalic acid (Aldrich, 20 g, 0.095 mol) in anhydrous methanol (100 mL) was heated to reflux in the presence of concentrated sulphuric acid (10 mL) for 1 h. The solvent was evaporated and the residue poured into saturated sodium bicarbonate (200 mL). The aqueous layer was washed with chloroform and 2N hydrochloric acid added to the aqueous layer to bring the pH close to 2. The mixture was extracted twice with ethyl acetate and the combined organic layers were washed with water and brine. The organic extract was concentrated after drying over sodium sulphate and the residue was recrystallized from ethyl acetate-hexane to give 11.8 g (55%) of 4-methoxycarbonyl-2-nitrobenzoic acid as cream-colored crystals, mp 131°-132° C.

reactant | nitroterephthalic acid | 0.095 mol, 20 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H5NO6
reactant | sulphuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 mL | CO | CH4O
product | 4-methoxycarbonyl-2-nitrobenzoic acid | 11.8 g, 55% | COC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
